US06951879B2
According to the method in example 5, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and bis(2-methoxyethyl) amine were converted to yield [3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-bis-(2-methoxy-ethyl)-amine as orange oil, MS: 479 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | bis(2-methoxyethyl) amine | COCCNCCOC | C6H15NO2
product | [3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-bis-(2-methoxy-ethyl)-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCN(CCOC)CCOC | C22H27BrN2O3S
